US06777418B2
A solution of 0.400 g (1.66 mmol) of 3-ethynyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde, 0.278 g (1.75 mmol) of 2-bromopyrimidine, 0.053 g (0.075 mmol) of dichlorobis(triphenylphosphine)palladium(II), 0.026 g (0.14 mmol) of cuprous iodide, and 0.253 g (2.50 mmol) of triethylamine in 12 mL of dimethylformamide was heated to 45° C. for 3 hours, cooled to room temperature and partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The product was purified by flash chromatography on silica gel (25% ethyl acetate/hexane) to afford 0.372 g (70%) of 5,5,8,8-tetramethyl-3-pyrimidin-2-ylethynyl-5,6,7,8-tetrahydro-2-naphthaldehyde.(M+=318).

reactant | 3-ethynyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde | 1.66 mmol, 0.400 g | C(#C)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C17H20O
reactant | 2-bromopyrimidine | 1.75 mmol, 0.278 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | triethylamine | 2.50 mmol, 0.253 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.075 mmol, 0.053 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5,5,8,8-tetramethyl-3-pyrimidin-2-ylethynyl-5,6,7,8-tetrahydro-2-naphthaldehyde | 0.372 g, 70% | CC1(C=2C=C(C(=CC2C(CC1)(C)C)C=O)C#CC1=NC=CC=N1)C | C21H22N2O
